US07943638B2
214 mg of ethyl 1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxylate and 101 mg of 2-amino-5-methylpyridine were added to 2.5 ml of bromobenzene and the mixture was stirred for 6.5 hours under heat refluxing condition. The reaction mixture was cooled to room temperature, and t-butyl methyl ether and n-hexane were added to the mixture. The resulting solid was collected by filtration, washed with t-butyl methyl ether and n-hexane, and dried to obtain N-(5-methyl-2-pyridyl)-1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxamide

reactant | ethyl 1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxylate | 214 mg | CN1C(C(=C(C=C1C)O)C(=O)OCC)=O | C10H13NO4
reactant | 2-amino-5-methylpyridine | 101 mg | NC1=NC=C(C=C1)C | C6H8N2
reactant | bromobenzene | 2.5 ml | BrC1=CC=CC=C1 | C6H5Br
reactant | t-butyl methyl ether | COC(C)(C)C | C5H12O
solvent | n-hexane | CCCCCC | C6H14
product | N-(5-methyl-2-pyridyl)-1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxamide | CC=1C=CC(=NC1)NC(=O)C=1C(N(C(=CC1O)C)C)=O | C14H15N3O3
